US05834494
5-Bromo-1-(3-pyridylcarbamoyl)indoline (E31)
5-Bromoindoline (D50) (0.5 g, 2.5 mmol) was treated with 3-pyridylisocyanate as in the method of Example 1. The product was filtered-off and recrystallised from methanol/water to afford the title compound (0.58 g, 72%) as a white crystalline solid m.p. 220° C.

reactant | 5-Bromoindoline | 2.5 mmol, 0.5 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 5-Bromo-1-(3-pyridylcarbamoyl)indoline | 0.58 g, 72% | BrC=1C=C2CCN(C2=CC1)C(NC=1C=NC=CC1)=O | C14H12BrN3O
